Semiconductor Capacitor Circuit Netlist
**************************************************************
* Tier No.:	1                                           
* Description:  Test of the Xyce semiconductor capacitor model 
*	using a simple RC circuit configuration.  A 20pF
*	capacitor is specified by a length, width and 
*	juction capacitance. A transient analysis of
*	the circuit voltage versus time is performed
*	to determine the capacitor voltage and current.
*	To obtain the capacitor value, integrate the 
*	capacitor current (wrt time) then divide by the 
*	capacitor voltage.
* Input:  1V Pulse Source
* Output: Capacitor voltage and current
* Circuit Elements: capacitor, resistor, zero volt voltage source
*	    used as an ameter to measure the capacitor current
* Analysis:
*	A series RC circuit is connected to pulse voltage source which
*	goes from 0V to 1V after a 10us delay, with rise and fall
*	times of 1ns. The Chilespice equation for a semiconductor 
*	capacitor is:
*
*     	C = CJ*(L-NARROW)*(W-NARROW)+2*CJSW(L+W-2NARROW)
*           where, 
*           CJ=1 F/sq.meter, L=20U, W=1U, NARROW=0, CJSW=0
*	This gives a capacitance value of 20pF (20E-12F).
*	The capacitor voltage should reach 90% of its
*	maximum value, 1V,  in 
*		time = (3*R*C) + rise + delay 
*		                 time    time
* 		     = (3 * 1E3 * 20E-12) + 1E-9 + 10E-6
*		     = 10.06us
*	Therefore, at 10.06us the capacitor voltage should be at least
*	0.9V.   Using the common simulation data (csd) format, the 20pF
*	capacitance value can be confirmed by dividing the integral of the
*	capacitor current (vmon_branch) by the capacitor voltage (V(3)).
**************************************************************************** 
VIN  1 0 PULSE(0 1 10U 1N 1N 30U)
R    1 2 1K
*The line below works if it is replaced with:
C    3 0 CMODEL C=1pf
* but it should work as given here:
*C    3 0 CMODEL 1pf
VMON 2 3 0
.MODEL CMODEL C ()
.TRAN 1N 20U 
.PRINT TRAN  V(3) I(VMON)
*.OPTIONS TIMEINT CONSTSTEP=1
.END
